US20010014691A1
(3-(3-Aminophenoxy)propyl)methylamine
The 3-(3-chloropropoxy)phenylamine was dissolved in methanol (25 mL) and added to a 40 wt % aqueous solution of methylamine (50 mL) in a heavy-walled glass pressure-tube apparatus. The tube was sealed and the mixture was stirred and heated at 100° C. (oil bath temperature) for 4 h. After cooling, the mixture was concentrated by rotary evaporation. Saturated NaCl solution (25 mL) was added to the residue. The pH of the solution was adjusted to 6, and impurities were extracted with ether (4×30 mL). The aqueous layer was basified to pH 11 with 10% NaOH solution and extracted with chloroform (4× 50 mL). The combined chloroform extracts were dried (Na2SO4), filtered, and concentrated by rotary evaporation to a residue that was dried briefly under high vacuum to give 2.77 g of an oil.

reactant | 3-(3-chloropropoxy)phenylamine | ClCCCOC=1C=C(C=CC1)N | C9H12ClNO
reactant | methylamine | 50 mL | CN | CH5N
solvent | methanol | 25 mL | CO | CH4O
product | (3-(3-Aminophenoxy)propyl)methylamine | 2.77 g | NC=1C=C(OCCCNC)C=CC1 | C10H16N2O
